US07544835B2
2-Isopropoxy-3-(4-methoxy-3-{2-[(4-toluidinocarbonyl)oxy]ethyl}phenyl)propanoic acid
Using ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(2-hydroxyethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | OCCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C17H26O5
reactant | p-tolylisocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | 2-Isopropoxy-3-(4-methoxy-3-{2-[(4-toluidinocarbonyl)oxy]ethyl}phenyl)propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=C(C=C1)OC)CCOC(=O)NC1=CC=C(C=C1)C | C23H29NO6
